US07217723B2
7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid
To a mixture solution of 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid ethyl ester (21.6 g) in methanol (50 mL) and tetrahydrofuran (50 mL) was added in several portions an aqueous solution of 2N sodium hydroxide (77 mL) on an ice bath. After the solution was stirred for 45 minutes and the pH of solution was adjusted to 2 with 2N hydrochloric acid water, the organic solvent was removed by evaporation. Water was added to the residue to suspend, the solid was collected by filtration, and washed with water and then with ethanol, and then was dried to provide the title compound (18.1 g).

reactant | 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid ethyl ester | 21.6 g | C(C)OC(=O)C=1C2=C(SC1)C(CCC2)=O | C11H12O3S
reactant | sodium hydroxide | 2N, 77 mL | [OH-].[Na+]
reactant | hydrochloric acid water | 2N | O.Cl
solvent | methanol | 50 mL | CO | CH4O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid | 18.1 g | O=C1CCCC2=C1SC=C2C(=O)O | C9H8O3S
